US04954513
To 8-phenyloctylmagnesium bromide (from 24.25 mmoles of 8-phenyloctyl bromide and 21.27 mmoles of magnesium) in distilled tetrahydrofuran (40 ml) was added 2-(2-methoxyphenyl)-4,4-dimethyloxazoline (17.10 mmoles) [A. I. Meyers et al., J. Org. Chem., 43, 1372 (1978)] in tetrahydrofuran (20 ml). After stirring for 24 hours, the reaction mixture was similarly worked up to yield 2-[2-(8-phenyloctyl)phenyl]-4,4-dimethyloxazoline as an oil. A solution of the oxazoline (11.58 mmoles) in methyl iodide (20 ml) was refluxed under argon for 18 hours. Removal of the volatiles afforded the corresponding 3,4,4-trimethyloxazolinium iodide as a white solid (mp 76.5°-78° C.). To an ice cold solution of the iodide (9.46 mmoles) in methanol (35 ml) was added in portions sodium borohydride (9.20 mmoles). The reaction mixture was allowed to stir for 30 minutes and was then quenched with 5 percent sodium hydroxide (50 ml). The reaction mixture was extracted with diethyl ether (2×50 ml) and the extract was washed with brine (50 ml) and dried over anhydrous magnesium sulfate and filtered. Evaporation of the filtrate afforded an oil which was dissolved in acetone (50 ml), and 3N hydrochloric acid (10 ml) was added. The mixture was flushed with argon and stirred for 16 hours at ambient temperature. The volatiles were removed under vacuum and the residue partitioned between diethyl ether (50 ml) and water (50 ml). The aqueous phase was extracted with more diethyl ether (50 ml). The combined organic phase was washed with brine (50 ml) and dried over anhydrous magnesium sulfate. Evaporation of the organic phase yielded an oil which was purified by flash chromatography over silica gel with 2 percent ethyl acetate in hexane as eluant to afford the desired product as a colorless oil.

reactant | 8-phenyloctylmagnesium bromide | 24.25 mmoles | C1(=CC=CC=C1)CCCCCCCC[Mg]Br
reactant | 2-(2-methoxyphenyl)-4,4-dimethyloxazoline | 17.10 mmoles | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[2-(8-phenyloctyl)phenyl]-4,4-dimethyloxazoline | C1(=CC=CC=C1)CCCCCCCCC1=C(C=CC=C1)C=1OCC(N1)(C)C | C25H33NO
